US06770662B2
3.2 ml (62 mmol) of bromine was dropwise added at 0° C. to a solution having 7.0 ml (58 mmol) of 3,4-(methylenedioxy)toluene and 5.5 ml (68 mmol) of pyridine dissolved in 110 ml of dichloromethane, followed by stirring for 30 minutes, and the temperature was raised to room temperature, followed by stirring for 22 hours. The mixture was washed with an aqueous sodium hydroxide solution, dried over anhydrous sodium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The crude product thus obtained was purified by silica gel column chromatography to obtain 13 g (yield 99%) of 2-bromo-4,5-(methylenedioxy)toluene.

reactant | bromine | 62 mmol, 3.2 ml | BrBr | Br2
reactant | 3,4-(methylenedioxy)toluene | 58 mmol, 7.0 ml | C1OC=2C=C(C=CC2O1)C | C8H8O2
reactant | pyridine | 68 mmol, 5.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 2-bromo-4,5-(methylenedioxy)toluene | 13 g, yield 99% | BrC1=C(C=C2C(=C1)OCO2)C | C8H7BrO2
